US06576637B1
360 mg of methyl 3-(2-aminoacetylamino)-3-(2-nitrophenyl)propionate hydrochloride are dissolved in 35 ml of DMF, and 190 mg of 4-(4-methylpyridin-2-ylamino)butyric acid are added. After cooling the reaction mixture to 0°, 450 mg of TBTU and 63 mg of HOBt are added. It is neutralized with 0.15 ml of N-methylmorpholine and stirred at room temperature overnight. The solvent is distilled off, and the residue is mixed with 30 ml of ethyl acetate and washed with half-concentrated bicarbonate solution and saturated brine and worked up further as usual. Methyl 3-{2-[4-(4-methylpyridin-2-ylamino)butyrylamino]acetylamino}-3-(2-nitrophenyl)propionate is obtained.

reactant | methyl 3-(2-aminoacetylamino)-3-(2-nitrophenyl)propionate hydrochloride | 360 mg | Cl.NCC(=O)NC(CC(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-]
reactant | 4-(4-methylpyridin-2-ylamino)butyric acid | 190 mg | CC1=CC(=NC=C1)NCCCC(=O)O | C10H14N2O2
reactant | TBTU | 450 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 63 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.15 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | Methyl 3-{2-[4-(4-methylpyridin-2-ylamino)butyrylamino]acetylamino}-3-(2-nitrophenyl)propionate | CC1=CC(=NC=C1)NCCCC(=O)NCC(=O)NC(CC(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-] | C22H27N5O6
